US04595677
8.19 g of Z-β-Ala-His-NH2 are hydrogenated at room temperature under normal pressure for 15 hours in 200 ml of methanol/water (95:5) with 0.82 g of palladium-on-carbon (5% Pd). After filtering off the catalyst, evaporating off the solvent and drying, H-β-Ala-His-NH2 is obtained in the form of a colourless powder; Rf (L)=0.01.

reactant | Z-β-Ala-His-NH2 | 8.19 g | N(CCC(=O)N[C@@H](CC1=CNC=N1)C(=O)N)C(=O)OCC1=CC=CC=C1 | C17H21N5O4
solvent | methanol water | 200 ml | CO.O
catalyst | palladium-on-carbon | 0.82 g | [Pd] | Pd
product | H-β-Ala-His-NH2 | NCCC(=O)N[C@@H](CC1=CNC=N1)C(=O)N | C9H15N5O2
